US05534518
A mixture of 20.0 grams (0.130 mole) of 3-methyl-2-nitrophenol and 22.5 grams (0.163 mole) of potassium carbonate in 200 mL of dimethyl sulfoxide was stirred, and 15.3 mL (0.156 mole) of methallyl chloride was added dropwise during a five minute period. Upon completion of addition, 5.4 grams (0.033 mole) of potassium iodide was added in one portion. The reaction mixture was then stirred at ambient temperature for about 18 hours. After this time the reaction mixture was poured into 500 mL of water. The mixture was then extracted with two 200 mL portions of diethyl ether. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 27.0 grams of 2-methyl-3-(3-methyl-2-nitrophenoxy)-1-propene. The NMR spectrum was consistent with the proposed structure.

reactant | 3-methyl-2-nitrophenol | 0.130 mole, 20.0 grams | CC=1C(=C(C=CC1)O)[N+](=O)[O-] | C7H7NO3
reactant | potassium carbonate | 0.163 mole, 22.5 grams | C([O-])([O-])=O.[K+].[K+]
reactant | methallyl chloride | 0.156 mole, 15.3 mL | C(C(C)=C)Cl | C4H7Cl
reactant | potassium iodide | 0.033 mole, 5.4 grams | [I-].[K+]
solvent | dimethyl sulfoxide | 200 mL | CS(=O)C | C2H6OS
solvent | water | 500 mL | O | H2O
product | 2-methyl-3-(3-methyl-2-nitrophenoxy)-1-propene | 27.0 grams | CC(=C)COC1=C(C(=CC=C1)C)[N+](=O)[O-] | C11H13NO3
